US04670421
Ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylacetate
A solution of 3.0 g. of tert-butyl ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylmalonate and 10 ml. of trifluoroacetic acid is warmed with stirring for 3 hours. The solution is poured onto ice and neutralized with potassium hydroxide. The resulting precipitate is collected by filtration, washed with water and dried. Recrystallization affords the product as a white solid.

reactant | tert-butyl ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylmalonate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=C1)(C)C | C33H57NO5Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium hydroxide | [OH-].[K+]
product | Ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylacetate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)CC(=O)OCC)C=C1)(C)C | C28H49NO3Si
